US07582775B2
Preparation of [(6-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-2-carbonyl)-amino]-acetic acid
[(6-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carbonyl)-amino]-acetic acid (220 mg, 0.432 mmol) is reduced by NaBH4 (33 mg, 0.863 mmol) as in Step F11 to afford the title compound (175 mg, 79%).

reactant | [(6-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carbonyl)-amino]-acetic acid | 0.432 mmol, 220 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(SC(=C2)C(=O)NCC(=O)O)C1)C)=O)(C)C | C29H35NO5S
reactant | NaBH4 | 0.863 mmol, 33 mg | [BH4-].[Na+]
product | [(6-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-2-carbonyl)-amino]-acetic acid | 175 mg, 79% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1C=CC2=C(SC(=C2)C(=O)NCC(=O)O)C1 | C29H37NO5S
